Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rectal bleeding
 
Major Surgical or Invasive Procedure:
Flexible Sigmoidoscopy- ___

 
History of Present Illness:
Pt is a ___ y.o male with h.o tachybrady syndrome s/p pacer,
essential tremor, HTN, HL, afib (not on AC), anemia due to iron
deficiency from chronic GI losses, spinal stenosis, presumed
intestinal AVMs, known chronic constipation and hemorrhoids with
prior colonscopies who presented to the ED with rectal bleeding.
Pt reports that he has periodic rectal bleeding, most recently
___ "quite a bit". Pt presented to his PCP for this issue and
CBC drawn. However, pt returned home after visit, had recurrent
bleeding "dripping for over 1 hr" so presented to the ER. Pt
reports that he gets episodes of bleeding about monthly. He has
chronic constipation going every ___ days and BMs seem to
exacerbate his bleeding. Stools are brown and there is red blood
in the bowl. Denies melena, abdominal pain, nausea, vomiting,
changes in appetite or weight.  In addition, he denies CP, sob,
palpitations, headaches, dizziness, cough, dysuria. 

In the ER, pt noted to have BRBPR, VSS, GI consulted.

10pt ROS reviewed and otherwise negative including for headache,
rash, joint pain.

 
Past Medical History:
tachybrady syndrome, afib, s/p pacer
essential tremor
HTN
HL
presumed intestinal AVMs
anemia receives ___ presumed due to GI losses 
chronic constipation
spinal stenosis 
s/p cataract surg

 
Social History:
___
Family History:
Father with stroke

 
Physical Exam:
Gen-fatigued appearing, NAD
vitals-last 97.5 BP 135/81 HR 58 RR18 sat 100% on
RA    
HEENT-ncat eomi anicteric MMM
neck-supple
respiratory-b/l ae no w/c/r
cardiovascular-s1s2 rr no m/r/g
gastrointestinal-+bs, soft, NT, ND, no guarding or rebound
rectal-in ED, bright red blood
diaper-had small amount of dried blood
ext-no c/c/e 2+pulses
neuro-face symmetric, speech dysarthric and labored due to ET,
moves all extremities 
psych-calm, cooperative 

Exam on discharge:
98.0 BP: 137 / 71 76 18 95% RA 
GENERAL: Alert and in no apparent distress. Occasionally upset,
speaks very slowly
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.
Reducible umbilcal hernia.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, moves all limbs.
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 09:48PM   K+-5.0
___ 09:48PM   ___ PTT-27.1 ___
___ 08:47PM   GLUCOSE-98 UREA N-20 CREAT-0.8 SODIUM-141 
POTASSIUM-5.8* CHLORIDE-103 TOTAL CO2-24 ANION GAP-14
___ 08:47PM   estGFR-Using this
___ 08:47PM   WBC-8.6 RBC-3.88* HGB-12.7* HCT-38.4* MCV-99* 
MCH-32.7* MCHC-33.1 RDW-13.2 RDWSD-47.6*
___ 08:47PM   NEUTS-69.7 LYMPHS-13.6* MONOS-9.7 EOS-5.9 
BASOS-0.8 IM ___ AbsNeut-6.01 AbsLymp-1.17* AbsMono-0.84* 
AbsEos-0.51 AbsBaso-0.07
___ 08:47PM   PLT SMR-NORMAL PLT COUNT-245
___ 10:42AM   IRON-106
___ 10:42AM   calTIBC-296 FERRITIN-145 TRF-228
___ 10:42AM   WBC-6.2 RBC-3.81* HGB-12.6* HCT-38.4* 
MCV-101* MCH-33.1* MCHC-32.8 RDW-13.2 RDWSD-49.0*
___ 10:42AM   NEUTS-59.7 LYMPHS-18.5* MONOS-12.9 EOS-7.6* 
BASOS-1.0 IM ___ AbsNeut-3.72 AbsLymp-1.15* AbsMono-0.80 
AbsEos-0.47 AbsBaso-0.06
___ 10:42AM   PLT COUNT-234

Flexible Sigmoidoscopy:
- Rectal ___ without stigmata of bleeding
- Internal Hemorrhoids
- Abnormal digital rectal exam ( large internal hemorrhoids with 
red spots potentially suggestive of recent bleeding).
 
Brief Hospital Course:
___ y.o male with h.o  chronic constipation, hemorrhoids, iron 
deficiency anemia due to GI bleeding, tachybrady syndrome s/p 
pacer, HTN, hypothyroidism who presented with rectal bleeding.

#Acute on chronic blood loss anemia due to gastrointestinal
bleeding
#Iron deficiency anemia
#Presumed colonic AVMs
#Chronic constipation
Patient with history of chronic iron deficiency anemia presented 
with BRBPR. Flex sig without signs of active bleeding and H/H 
has been stable. The patient tolerated a regular diet without 
recurrence of BRBPR.  He should maintain soft stools and a high 
fiber diet. Consider Colorectal surgery referral for management 
of hemorrhoids if persistent bleeding. Discuss utility of repeat 
GI workup for iron deficiency anemia with PCP. Can not 
completely rule out proximal malignancy although this is 
unlikley to be source of bleeding. 

#Hyperkalemia-
The patient had hyperkalemia on admission which resolved without 
intervention. 

#Lichen simplex vs. neurodermatitis on the back
- mometasone continued

#HTN
#Tachybrady syndrome s/p pacer
The patient is not on nodal agents or antihypertensives at  
baseline.

#Hypothyroidism-continued home levothyroxine

#BPH-does not appear to be taking home finasteride  on prior med
lists, will therefore hold 

Transitional issues:
-  Consider Colorectal surgery referral for management of 
hemorrhoids if persistent bleeding. 
- Discuss utility of repeat GI workup for iron deficiency anemia 
with PCP.
HCP: Grand- Nephew- ___ ___
Code Status: Full

Patient seen and examined on day of discharge and stable for 
discharge to rehab. >30 minutes on discharge activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Polyethylene Glycol 17 g PO DAILY:PRN c 
3. mometasone 0.1 % topical BID 

 
Discharge Medications:
1.  Levothyroxine Sodium 100 mcg PO DAILY  
2.  mometasone 0.1 % topical BID  
3.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Chronic gastrointestinal bleeding
Chronic Anemia
Internal Hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with gastrointestinal 
bleeding and you were seen by the gastroenterologists. You had a 
flexible sigmoidoscopy which showed internal hemorrhoids but no 
signs of active bleeding. It is important that you eat a high 
fiber diet and keep your stools soft. Please discuss an 
endoscopy and colonoscopy with your primary care doctor. Your 
blood counts remained stable during your hospitalization and you 
did not require a blood transfusion.

We wish you the best.
Your ___ Care team

 
Followup Instructions:
___